US08119617B2
3.9 g of Cu(II) acetate are added to a solution of 5 g 1-iodo-2-nitrobenzene and 5 g of triethylphosphite in 20 ml of EtOH, the mixture obtained is refluxed for 24 hours, cooled to rt and partitioned between EtOAc and half-saturated aqueous NaCl-solution. The organic layer obtained is dried, solvent is evaporeated and the evaporation residue is subjected to column chromatography (silicagel, toluene:acetonitrile=3:1). (2-Nitro-phenyl)-phosphonic acid diethyl ester is obtained in the form of an orange oil. MS: MNa+ 282

reactant | 1-iodo-2-nitrobenzene | 5 g | IC1=C(C=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | triethylphosphite | 5 g | C(C)OP(OCC)OCC | C6H15O3P
solvent | EtOH | 20 ml | CCO | C2H6O
catalyst | Cu(II) acetate | 3.9 g | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | (2-Nitro-phenyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H14NO5P
